US06498172B1
A solution of 4-butylbenzonitrile (30.09 g) in EtOH (380 mL) and HCl (4N in dioxane, 50 mL, 200 mmol) was hydrogenated at 50 psi on a Parr shaker in the presence of 10% palladium on carbon (6.09 g). The catalyst was removed via filtration through Celite® and the solution was concentrated in vacuo. The residue was suspended in Et2O and filtered to provide 4-butylbenzylamine hydrochloride as an off-white solid (32.47 g). 1H NMR (400 MHz, CD3OD) δ 7.33 (d, 2H), 4.04 (s, 2H), 2.60 (t, 2H), 1.56 (m, 2H), 1.31 (m, 2H), 0.89 (t, 3H).

reactant | 4-butylbenzonitrile | 30.09 g | C(CCC)C1=CC=C(C#N)C=C1 | C11H13N
reactant | HCl | 200 mmol, 4N, 50 mL | Cl | ClH
solvent | EtOH | 380 mL | CCO | C2H6O
catalyst | palladium on carbon | 6.09 g | [Pd] | Pd
product | 4-butylbenzylamine hydrochloride | 32.47 g | Cl.C(CCC)C1=CC=C(CN)C=C1 | InChI=1S/C11H17N.ClH/c1-2-3-4-10-5-7-11(9-12)8-6-10;/h5-8H,2-4,9,12H2,1H3;1H
